US04021434
In 50 ml. of anhydrous tetrahydrofuran was dissolved 5 g. of diethyl 2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine 3,5-dicarboxylate in a nitrogen gas stream and after adding to the solution 1 g. of a 50% oil dispersion of sodium hydride, the mixture was maintained at room temperature for 10 minutes. Then, 3 ml. of 1-chloro-1-ethoxyethane was added to the mixture under cooling to -40° C. and after removing the cooling bath, the resultant mixture was stirred for 30 minutes. After the reaction was over, 1 ml. of glacial acetic acid was added to the product and then the product was diluted with ethyl acetate. The reaction product was washed with water, saturated aqueous sodium bicarbonate solution, and then water, dried over anhydrous magnesium sulfate, and then the solvent was distilled away under a reduced pressure to provide crude diethyl N-(1-ethoxyethyl)-2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate. By purifying the product by means of a silica gel column chromatography and by using a 20:1 benzeneethyl acetate mixed solvent, 1 g. of faint-yellow oily diethyl N-(1-ethoxyethyl)-2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate was obtained. The product was confirmed in the infrared absorption spectra, the nuclear magnetic responance spectra, and the mass analysis spectra to completely coincide with the presumed structure.

reactant | diethyl 2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine 3,5-dicarboxylate | CC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C | C19H22N2O6
reactant | sodium hydride | [H-].[Na+]
reactant | 1-chloro-1-ethoxyethane | ClC(C)OCC | C4H9ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | diethyl N-(1-ethoxyethyl)-2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate | C(C)OC(C)N1C(=C(C(C(=C1C)C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C | C23H30N2O7
